US05089504
A mixture of methyl 2-propanoyl-3-methoxyacrylate (70 g) and 2-methoxyaniline (45 ml) was heated on a steam bath for 30 minutes, then diluted with petroleum ether and left to crystallize. Filtration and washing with ether gave methyl 2-propanoyl-3-(2-methoxyphenylamino)acrylate (78.2 g) as a mixture of E/Z isomers.

reactant | methyl 2-propanoyl-3-methoxyacrylate | 70 g | C(CC)(=O)C(C(=O)OC)=COC | C8H12O4
reactant | 2-methoxyaniline | 45 ml | COC1=C(N)C=CC=C1 | C7H9NO
product | methyl 2-propanoyl-3-(2-methoxyphenylamino)acrylate | 78.2 g | C(CC)(=O)C(C(=O)OC)=CNC1=C(C=CC=C1)OC | C14H17NO4
